US06159904
0.51 Gram (1.7 mmol) of 4-ethylthio-5-methyl-6-carboxythiochroman-1,1-dioxide was dissolved in 5 ml of t-amyl alcohol, and 0.22 g (2.0 mmol, 1.2 eq.) of 1-ethyl-5-hydroxypyrazole and 0.42 g (2.0 mmol, 1.2 eq.) of N,N'-dicyclohexylcarbodiimide were added. The mixture was stirred at room temperature for 3 hours, and then 0.18 g (1.3 mmol) of potassium carbonate was added. The mixture was heated at 80° C. for 8 hours. After the completion of the reaction, the solvent was distilled off. The remaining oil was dissolved in ethyl acetate and product was extracted with a 5 wt % sodium hydrogencarbonate aqueous solution. 2N Hydrochloric acid was added to the resultant aqueous solution to adjust a pH of 1, and the mixture was extracted with ethyl acetate. An organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, and the solvent was distilled off to give 0.5 g (75%) of 4-ethylthio-5-methyl-6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide.

reactant | 4-ethylthio-5-methyl-6-carboxythiochroman-1,1-dioxide | 1.7 mmol | C(C)SC1CCS(C2=CC=C(C(=C12)C)C(=O)O)(=O)=O | C13H16O4S2
reactant | 1-ethyl-5-hydroxypyrazole | 2.0 mmol, 0.22 g, 1.2 eq. | C(C)N1N=CC=C1O | C5H8N2O
reactant | N,N'-dicyclohexylcarbodiimide | 2.0 mmol, 0.42 g, 1.2 eq. | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | potassium carbonate | 1.3 mmol, 0.18 g | C([O-])([O-])=O.[K+].[K+]
solvent | t-amyl alcohol | 5 ml | C(C)(C)(CC)O | C5H12O
product | 4-ethylthio-5-methyl-6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide | 0.5 g, 75% | C(C)SC1CCS(C2=CC=C(C(=C12)C)C(=O)C=1C=NN(C1O)CC)(=O)=O | C18H22N2O4S2
